US08975288B2
3-chloro-N-(1-propyl-1-H-tetrazol-5-yl)benzamide (6)
Employing 0.25 g (1.5 mmol) of 2-amino-3-chlorobenzoic acid and 0.19 g (1.5 mmol) of 1-propyl-1H-tetrazol-5-amine in the procedure described above and elution with CH2Cl2/MeOH/Et3N (9.4:0.3:0.3) gave the product in 65% yield.

reactant | 2-amino-3-chlorobenzoic acid | 1.5 mmol, 0.25 g | NC1=C(C(=O)O)C=CC=C1Cl | C7H6ClNO2
reactant | 1-propyl-1H-tetrazol-5-amine | 1.5 mmol, 0.19 g | C(CC)N1N=NN=C1N | C4H9N5
product | 3-chloro-N-(1-propyl-1-H-tetrazol-5-yl)benzamide | 65% yield | ClC=1C=C(C(=O)NC2=NN=NN2CCC)C=CC1 | C11H12ClN5O
